US06573377B1
(4) Ethyl 6-fluoro-1-(2-phthalimidoethyl)-2-indolecarboxylate
A 1.0 g portion of ethyl 6-fluoro-2-indolecarboxylate was dissolved in 50 ml of dimethylformamide, mixed under ice-cooling with a suspension consisting of 0.3 g of 60% sodium hydride and 10 ml of dimethylformamide, stirred at the same temperature for 30 minutes, further mixed with 5.0 g of N-(2-bromoethyl)phthalimide and then stirred for 24 hours while gradually returning to room temperature. After terminating the reaction by adding water, this was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with anhydrous sodium sulfate, and then the solvent was evaporated. The thus obtained residue was applied to a silica gel column chromatography and developed with a hexane-ethyl acetate (9:1) mixed solvent, thereby obtaining 0.74 g of the title compound.

reactant | ethyl 6-fluoro-2-indolecarboxylate | FC1=CC=C2C=C(NC2=C1)C(=O)OCC | C11H10FNO2
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | N-(2-bromoethyl)phthalimide | 5.0 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl 6-fluoro-1-(2-phthalimidoethyl)-2-indolecarboxylate | 0.74 g | FC1=CC=C2C=C(N(C2=C1)CCN1C(C=2C(C1=O)=CC=CC2)=O)C(=O)OCC | C21H17FN2O4
